US09370515B2
Preparation of N-(3,4-dimethoxyphenyl)-3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-amine
To a solution of 6-chloro-3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazine (31 mg, 0.103 mmol, 1.0 equiv), xantphos (12 mg, 0.0206 mmol, 0.2 equiv), palladium acetate (2 mg, 0.0103 mmol, 0.1 equiv), and potassium carbonate (284 mg, 2.06 mmol, 20 equiv) in dioxane (5.0 mL) was added 3,4-dimethoxyaniline (24 mg, 0.155 mmol, 1.5 equiv) and heated to 110° C. for 2 h. Purification by column chromatography using 2% methanol in dichloromethane elution gave 20 mg, of the brown solid, 47%.

reactant | 6-chloro-3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazine | 0.103 mmol, 31 mg, 1.0 equiv | ClC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)C | C14H9ClN4S
reactant | xantphos | 0.0206 mmol, 12 mg, 0.2 equiv | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium carbonate | 2.06 mmol, 284 mg, 20 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 3,4-dimethoxyaniline | 0.155 mmol, 24 mg, 1.5 equiv | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0103 mmol, 2 mg, 0.1 equiv | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-(3,4-dimethoxyphenyl)-3-(7-methylthieno[3,2-c]pyridin-2-yl)imidazo[1,2-b]pyridazin-6-amine | COC=1C=C(C=CC1OC)NC=1C=CC=2N(N1)C(=CN2)C2=CC=1C=NC=C(C1S2)C | C22H19N5O2S
